US07265137B2
(1) Ethyl 2-[4-[3-[2-(2-hydroxy-4-chlorophenyl)-5-isopropyl-4-oxazolyl]propionyl]-2-methylphenoxy]-2-methylpropionate
In methyl ethyl ketone (10 mL), 3-[2-(2-hydroxy-4-chlorophenyl)-5-isopropyl-4-oxazolyl]-1-(3-methyl-4-hydroxyphenyl)propan-1-one (150 mg, 0.38 mmol), ethyl 2-bromo-2-methylpropionate (146 mg, 0.75 mmol) and potassium carbonate (103 mg, 0.75 mmol) were suspended. The suspension was refluxed for 20 hours, and allowed to room temperature. After insoluble was filtered off, the mixture was washed with methyl ethyl ketone to removed the solvent. The residue was purified by column chromatography on silica gel with hexane/ethyl acetate (8/1) to give the desired compound (83 mg) as colorless oil (yield 43%).

reactant | 3-[2-(2-hydroxy-4-chlorophenyl)-5-isopropyl-4-oxazolyl]-1-(3-methyl-4-hydroxyphenyl)propan-1-one | 0.38 mmol, 150 mg | OC1=C(C=CC(=C1)Cl)C=1OC(=C(N1)CCC(=O)C1=CC(=C(C=C1)O)C)C(C)C | C22H22ClNO4
reactant | ethyl 2-bromo-2-methylpropionate | 0.75 mmol, 146 mg | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | potassium carbonate | 0.75 mmol, 103 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 10 mL | C(C)C(=O)C | C4H8O
product | Ethyl 2-[4-[3-[2-(2-hydroxy-4-chlorophenyl)-5-isopropyl-4-oxazolyl]propionyl]-2-methylphenoxy]-2-methylpropionate | 83 mg, yield 43% | OC1=C(C=CC(=C1)Cl)C=1OC(=C(N1)CCC(=O)C1=CC(=C(OC(C(=O)OCC)(C)C)C=C1)C)C(C)C | C28H32ClNO6
